US05272270
rel-(S,S)-3,3'-Dibenzyloxy-4,4'-dimethoxy-stilbene oxide
Mixture: 66.7 g 150 mmol) of 3,3'-dibenzyloxy-4,4'-dimethoxystilbene, 1500 ml of dichloromethane, 1500 ml of sodium hydrogen carbonate solution, 667 mg (1.5 mmol) of nickel-salene, 1.334 g (4.3 mmol) of benzyltributylammonium chloride, 250 ml of sodium hypochlorite solution (13% active chlorine).

reactant | 3,3'-dibenzyloxy-4,4'-dimethoxystilbene | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C30H28O4
reactant | sodium hydrogen carbonate | 1500 ml | C(O)([O-])=O.[Na+]
reactant | sodium hypochlorite | 250 ml | Cl[O-].[Na+]
catalyst | benzyltributylammonium chloride | 4.3 mmol, 1.334 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
catalyst | nickel | 1.5 mmol, 667 mg | [Ni] | Ni
solvent | dichloromethane | 1500 ml | ClCCl | CH2Cl2
product | rel-(S,S)-3,3'-Dibenzyloxy-4,4'-dimethoxy-stilbene oxide | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1[C@H](C2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)O1 | C30H28O5
